US07645753B2
3-Allyloxy-4-methoxy-benzaldehyde [CAS RN 225939-36-6]
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3-hydroxy-4-methoxy-benzaldehyde with allylbromide in DMF using K2CO3 as base (see also A. W. White, R. Almassy, A. H. Calvert, N. J. Curtin, R. J. Griffin, Z. Hostomsky, K. Maegley, D. R. Newell, S. Srinivasan, B. T. Golding J. Med. Chem. 2000, 43, 4084-4097).

reactant | 3-hydroxy-4-methoxy-benzaldehyde | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | allylbromide | C(C=C)Br | C3H5Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Allyloxy-4-methoxy-benzaldehyde | C(C=C)OC=1C=C(C=O)C=CC1OC | C11H12O3
